US05741926
2-((2-Bromoacetyl)amino)-5-fluorobenzoic Acid
To a cold (0° C.) solution of 2-amino-5-fluorobenzoic acid (15.0 g, 96.6 mmol) in a mixture of dry DMF (35 mL) and dioxane (35 mL) was added, dropwise, bromoacetylbromide (8.43 mL, 96.6 mmol) at 0° C. over a 40 min period, and then the reaction mixture was allowed to come to room temperature overnight. The reaction mixture was cooled to 0° C., water (300 mL) was added slowly, and then the precipitate which formed was collected and washed with 5% HBr (50 mL) and water. After drying, 25.43 g (95.1%) of the title compound was obtained as a white solid: mp 191.2°-191.8° C.; 1H NMR (acetone-d6) δ11.60 (s, 1H), 8.71 (dd, J=5.2, J=9.2, 1H), 7.80 (dd, J=3.2, J=9.6, 1H), 7.48-7.43 (m, 1H), 4.18 (s, 2H); 13C NMR (acetone-d6) δ168.80, 165.71, 158.37 (d, J=241.9), 138.56, 122.78 (d, J=7.8), 122.70, 122.06 (d, J=21.9), 117.98 (d, J=24.0), 30.45; MS (EI, m/z) 277 (M+). HRMS (EI) calcd for C9H7NO3FBr 274.9593, found 274.9594.

reactant | 2-amino-5-fluorobenzoic acid | 96.6 mmol, 15.0 g | NC1=C(C(=O)O)C=C(C=C1)F | C7H6FNO2
reactant | DMF | 35 mL | CN(C)C=O | C3H7NO
reactant | dioxane | 35 mL | O1CCOCC1 | C4H8O2
reactant | bromoacetylbromide | 96.6 mmol, 8.43 mL | BrCC(=O)Br | C2H2Br2O
solvent | water | 300 mL | O | H2O
product | 2-((2-Bromoacetyl)amino)-5-fluorobenzoic Acid | 25.43 g, 95.1% | BrCC(=O)NC1=C(C(=O)O)C=C(C=C1)F | C9H7BrFNO3
